US09359371B2
Preparation: N-benzyl-2-(3-oxo-8-azabicyclo[3.2.1]octan-8-yl)-4-((3-chloro-4-methoxybenzyl)amino)pyrimidine-5-formamide (Compound 23)
In absolute anhydrous THF (30 mL) were dissolved 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide (222 mg, 0.5 mmol) and triethylamine (0.25 mL, 1.35 mmol). 3-oxo-8-azabicyclo[3.2.1]octane hydrochloride salt (90 mg, 0.6 mmol) was then added. The reaction was conducted at ambient temperature overnight. The solvent was removed by rotary evaporation, followed by addition of water and extraction with DCM. The organic phase was dried over sodium sulfate and purified by silica gel column chromatography (petroleum ether/ethyl acetate=1/1) to give a white solid (60 mg, 24% yield).

reactant | 4-((3-chloro-4-methoxybenzyl)amino)-2-(methylsulfinyl)-N-(pyrimidin-2-ylmethyl)pyrimidine-5-formamide | 0.5 mmol, 222 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)NCC2=NC=CC=N2)S(=O)C)C=CC1OC | C19H19ClN6O3S
reactant | triethylamine | 1.35 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | 3-oxo-8-azabicyclo[3.2.1]octane hydrochloride salt | 0.6 mmol, 90 mg | Cl.O=C1CC2CCC(C1)N2
reactant | THF | 30 mL | C1CCOC1 | C4H8O
product | N-benzyl-2-(3-oxo-8-azabicyclo[3.2.1]octan-8-yl)-4-((3-chloro-4-methoxybenzyl)amino)pyrimidine-5-formamide | 60 mg, 24% yield | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)N1C2CC(CC1CC2)=O)NCC2=CC(=C(C=C2)OC)Cl | C27H28ClN5O3
